Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
vertigo, unsteadiness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year-old right-handed woman with history of hypothyroidism 
and 3.5 months post-partum who presents with 2 week history of 
occipital headaches and a several hour history of dizziness and 
vertigo. History provided by patient. Ms. ___ reports she was 
in her usual state of health until approximately 2 weeks ago. 
She began developing headaches in the occipital area, with 
radiation bitemporally. This is new to her as she typically does 
not get headaches. Headache quality is described as a "pressure" 
sensation. It is relatively mild in severity and not 
particularly bothersome in her day. Headaches are typically 
worse in the morning and are present each morning upon waking 
up. Headaches do not wake her up at night. She does report that 
with valsalva (such as sneezing or bearing down) she experiences 
a transient "head rush" that worsens the headache, lasting for 
several seconds. No worsening with positional changes. No 
associated nausea/vomiting, photophobia, phonophobia, visual 
changes, focal weakness or numbness. She has intermittently 
taken Advil which helps. She reports having "shoulder tension" 
intermittently over this time period which she attributes to 
constantly running around with her children including her 
infant, as she is ___ months postpartum. 

Her children have had upper respiratory infections recently. 
This morning, when patient awoke she noticed she had right ear 
pressure and sinus congestion. She felt like she may have been 
coming down with the illness that her children had. When she was 
driving, she developed acute onset of room-spinning vertigo 
after looking over her left shoulder. This resolved after a few 
seconds and she was able to complete her drive. At some point 
later in the morning, she had "waviness" out of the right eye 
peripheral vision that resolved after several seconds. Two hours 
later, this afternoon at 12:30PM (approximately 10 hours prior 
to my evaluation) the patient was sitting down at a car 
___, holding her daughter on her lap, when she developed 
acute onset of vertiginous symptoms. She reports sudden onset of 
nausea with vomiting (vomited "once or twice" in the 
___), dizziness that was described as both room-spinning 
vertigo and lightheadedness. It was constant. It was not 
associated with any hearing loss, tinnitus, focal weakness, 
sensory loss, visual changes, diplopia or difficulties 
understanding or expressing speech. She had never had this 
sensation before. The dizziness remained present regardless of 
positioning or head turn. She had slight improvement with 
closing either eye but not resolution. She was brought to 
___ for further evaluation. At ___, she had a 
head CT w/o contrast which reportedly revealed "Chiari 
malformation with apparent impingement upon the medulla due to 
the cerebellar tonsils." Patient notes that her dizziness was 
significantly improved after receiving a medicine, but does not 
know what it was. This made the dizziness not constant, but 
rather episodic and triggered with any head positional change. 
She was transferred to ___ for further evaluation. 

Unfortunately, patient was transferred from ___ without 
any records. No radiology images, reports or clinical 
documentation is available. ___ staff has contacted patient 
information services to try to assist with this. Currently, 
patient reports low-level lightheadedness constantly, and has 
intermittent room-spinning vertigo that is triggered with any 
head positional change, lasting for several seconds at a time. 
She also remains nauseous but has not vomited. Denies 
fevers/chills. Denies bowel/bladder incontinence. Denies any 
history of seizures. Denies any recent falls or trauma. Denies 
any sensory loss. Denies any focal weakness. Reports gait 
unsteadiness because of the dizziness. Of note, she is ___ 
months postpartum. During the pregnancy she had intermittent 
palpitations which was worked up as outpatient and was 
unremarkable. She did have a holter monitor which was negative. 

On neuro ROS, the pt reports low level bitemporal and occipital 
headache and reports unsteady gait due to dizziness. Denies loss 
of vision, blurred vision, diplopia, dysarthria, dysphagia, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech. Denies focal weakness, 
numbness, parasthesiae. No bowel or bladder incontinence or 
retention. 

On general review of systems, the pt denies recent fever or 
chills. No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. Denies rash. 
 
Past Medical History:
Hypothyroidism 
3.5 months post-partum
 
Social History:
___
Family History:
Noncontributory. Denies family history of malignancy or early 
stroke. Denies family history of aneurysm. Denies connective 
tissue disorder.
 
Physical Exam:
Admission Physical Exam
=======================
Vitals: T 99.0F, HR 82, BP 113/76, RR 18, O2 97% RA 
General: Awake, slightly flushed appearing, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx Neck: Supple, no nuchal rigidity 
Pulmonary: breathing non labored on room air Cardiac: warm and 
well perfused; regular on telemetry 
Abdomen: soft, NT/ND, no masses or organomegaly noted. 
Extremities: No cyanosis, clubbing or edema bilaterally 
Skin: no rashes or lesions noted. 

___ test negative bilaterally (reported generalized 
dizziness throughout; no nystagmus noted) 

Head impulse test negative 

Neurologic: 

-Mental Status: Awake, alert, interactive. Oriented to self, 
place, time and situation. Able to relate history without 
difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects. Able to 
read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. The pt had good 
knowledge of current events. There was no evidence of apraxia or 
neglect. 

-Cranial Nerves: 
I: Olfaction not tested. 
II: Anisocoria, R pupil 5>3, L pupil 4>3. No ptosis. VFF to 
confrontation. Fundoscopic exam performed at bedside and 
revealed no papilledema, exudates, or hemorrhages. 
III, IV, VI: EOMI without nystagmus. No skew. Normal saccades. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally. 
IX, X: Palate elevates symmetrically. 
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline. 

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted. 

  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, proprioception throughout. 
No extinction to DSS. 
 
-DTRs:
  Bi Tri ___ Pat Ach
L  3* 3    3    3*  2
R  3* 3    3    3*  2

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally. 

-Gait: Ambulated at bedside. Able to stand with minimal 
assistance. Gait is narrow-based, though with veering to the 
right. She had worsened vertigo with standing which limited 
assessment. Unable to walk in tandem. 

DISCHARGE PHYSICAL EXAM: 
========================
VS: T 98.8, HR 60-70s, BP 120-140/70-100 RR 16, O2 100% RA  
 GEN: well-appearing woman in no acute distress or discomfort  
 NEURO:  
 - MS: alert and oriented, pleasantly interactive and 
cooperative throughout the interview. Speech is fluent with 
normal rate, rhythm, and volume, no dysarthria.  
 - CN: pupils 5->3 b/l, VFF to confrontation, EOMI without 
nystagmus, no skew, facial sensation intact to light touch, no 
facial droop, facial musculature symmetric, hearing intact to 
finger rub bilaterally, palate elevates symmetrically, ___ 
strength of trapezii and SCM bilaterally, tongue midline with 
full ROM  
 - Motor: normal bulk and tone, ___ throughout  
 - Sensory: intact and equal to light touch, pain, and 
temperature bilaterally upper and lower extremities  
 - Coordination: no dysmetria on FNF bilaterally, normal 
cerebellar mirroring test, no dysdiadochokinesia  
 - Gait: able to stand without assistance and without 
lightheadedness/nausea. no sway in either direction. positive 
Romberg.  

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 08:40AM BLOOD WBC-8.0 RBC-4.43 Hgb-13.1 Hct-40.1 MCV-91 
MCH-29.6 MCHC-32.7 RDW-13.3 RDWSD-44.8 Plt ___
___ 08:40AM BLOOD WBC-8.0 RBC-4.43 Hgb-13.1 Hct-40.1 MCV-91 
MCH-29.6 MCHC-32.7 RDW-13.3 RDWSD-44.8 Plt ___
___ 08:40AM BLOOD ___ PTT-28.3 ___
___ 08:40AM BLOOD Glucose-90 UreaN-7 Creat-0.6 Na-144 K-4.5 
Cl-104 HCO3-24 AnGap-16
___ 08:40AM BLOOD ALT-13 AST-15 LD(LDH)-137 CK(CPK)-84 
AlkPhos-68 TotBili-0.4
___ 09:45PM BLOOD cTropnT-<0.01
___ 08:40AM BLOOD CK-MB-1 cTropnT-<0.01
___ 09:45PM BLOOD Albumin-4.1 Calcium-8.8 Phos-4.2 Mg-2.0
___ 08:40AM BLOOD %HbA1c-5.2 eAG-103
___ 08:40AM BLOOD Triglyc-65 HDL-70 CHOL/HD-2.7 LDLcalc-103
___ 08:40AM BLOOD TSH-3.4
___ 09:45PM BLOOD HCG-<5
___ 09:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING/DATA:
============= 
___ CT HEAD/ NECK: (wet read) Non-contrast CT Head: There is a
small focus of hypodensity in the area of previously noted slow
diffusion in the inferior medial aspect of the left cerebellar
hemisphere consistent with known late acute infarct in the ___ 
distribution.   

___ CTA: Segmental narrowing in the V3 portion of the right
vertebral artery consistent with right vertebral dissection and
concordant with recent MRI. At the level of the transverse
foramen (series 3; images 199-208), in the distal V3 segment,
there is a small out-pouching which may represent a small 
pseudoaneurysm within this segment. 
Left narrowing of the distal V3 segment consistent with likely
left vertebral dissection. 

___ MRI HEAD: 
1. Slow diffusion with associated T2 and  FLAIR signal
abnormality in the inferior medial aspect of the left cerebellar
hemisphere consistent with late acute infarct in the ___
distribution. 
2. There is focal bulbous appearance of the right V3 segment
measuring approximately 5 mm with associated short-segment
moderate narrowing of the proximal V3 (series 14, image 10
through 22; series 7, image 105). There is suggestion of
crescentic extraluminal T1 hyperintense signal associated with 
the wing (series 14, image 13). In addition, there is
short-segment narrowing of the left V3 segment just prior to the
V4 (series 14, image 20; series 105 image 16).  The findings
raise concern for bilateral dissections.  Further evaluation 
with
CTA head and neck is recommended. 
3. Apparent dominant right ___ complex on MRA head.  The
remainder the intracranial circulation is unremarkable.  There 
is
no cervical internal carotid artery stenosis by NASCET criteria. 

4. There is no dural venous sinus thrombosis. 
5. Chiari 1 malformation with inferior displacement of the
cerebellar tonsils by 2.5 cm.  No evidence of hydrocephalus. 
  
___ ECHO: The left atrium is normal in size. No thrombus/mass 
is
seen in the body of the left atrium. No atrial septal defect or
patent foramen ovale is seen by 2D, color Doppler or saline
contrast with maneuvers. Left ventricular wall thickness, cavity
size and regional/global systolic function are normal (LVEF
>55%). No masses or thrombi are seen in the left ventricle. 
There
is no ventricular septal defect. Right ventricular chamber size
and free wall motion are normal. There is no mass/thrombus in 
the
right ventricle. The diameters of aorta at the sinus, ascending
and arch levels are normal. The aortic valve leaflets (3) appear
structurally normal with good leaflet excursion and no aortic
stenosis or aortic regurgitation. No masses or vegetations are
seen on the aortic valve. The mitral valve appears structurally
normal with trivial mitral regurgitation. There is no mitral
valve prolapse. No mass or vegetation is seen on the mitral
valve. The pulmonary artery systolic pressure could not be
determined. No vegetation/mass is seen on the pulmonic valve.
There is no pericardial effusion.   

INTERVAL LABS: 
==============
___ 06:25AM BLOOD ProtCFn-107 ProtSFn-120
___ 06:25AM BLOOD Lupus-INDERTERMI
___ 08:40AM BLOOD %HbA1c-5.2 eAG-103
___ 08:40AM BLOOD Triglyc-65 HDL-70 CHOL/HD-2.7 LDLcalc-103
___ 08:40AM BLOOD TSH-3.4
___ 09:45PM BLOOD HCG-<5
___ 06:25AM BLOOD ANCA-NEGATIVE B
___ 06:25AM BLOOD RheuFac-<10 ___ CRP-0.8 
dsDNA-NEGATIVE
___ 06:25AM BLOOD C3-121 C4-31
___ 06:25AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND
___ 06:25AM BLOOD SED RATE-Test      
___ 06:25AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
___ 06:25AM BLOOD ANTITHROMBIN ANTIGEN-Test Name 
 
Brief Hospital Course:
___ female who is 3.5 months post-partum who presented 
with 2 weeks of occipital headache and several hours of 
lightheadedness, vertigo, nausea/vomiting and exam with 
deviation to the right w/ walking and sitting. 

# Bilateral Intracranial vertebral artery dissection
# Left vermis cerebellar stroke
Brain MRI/MRA demonstrated a left vermis cerebellar infarct (in 
the left medial branch of ___ with bilateral intracranial 
vertebral artery dissections as well as Chiari malformation, 
Type I. The etiology of her stroke was most likely bilateral 
vertebral dissection, with possible additional contribution from 
post-partum hypercoagulable state or underlying hypercoagulable 
process (for pending hypercoagulable labs at the time of 
discharge-see below). TTE was negative for a PFO, thrombus or 
atrial appendage. The vertebral dissections are of unclear 
etiology as she has no personal/family history nor features of 
connective tissue disease. Of note, she did have a deep tissue 
neck massage one month ago, but the significance of this in 
dissection is unclear. She was started on Aspirin 81mg (and 
subsequently stopped breastfeeding). Her neurologic symptoms 
significantly improved within ___ days. She should continue 
Aspirin 81mg for ___ months. In terms of her stroke risk 
factors, she was not started on a statin at this time because 
her LDL was 100 and atherosclerosis was not felt to be a 
contributor to her dissections. She was not started on a blood 
pressure medication as she did not have hypertension. Her A1c 
was 5.2. She will follow-up with neurology to determine length 
of need of aspirin or further imaging. 

#Chiari I Malformation
2.5cm inferior displacement of cerebellar tonsils, likely 
contributing to her persistent occipital headache. She was seen 
by Neurosurgery, who determined no need for urgent surgical 
intervention. She will follow-up with Dr. ___ 
(___) in 2 weeks. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:
[ ]  Statin medication allergy 
[x]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? () Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No
9. Discharged on statin therapy? () Yes - (x) No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[x]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

TRANSITIONAL ISSUES: 
====================
#NEW MEDICATIONS: please see discharge medication list. 
[] Aspirin 81mg PO daily (should not breastfeed while on 
Aspirin)
[] She will need Factor V Leiden and Prothrombin gene mutation 
testing. Please consider repeating lupus anticoagulant as this 
test was inconclusive and could potentially change management. 
[] F/u pending hypercoagulability work-up: ANCA, ___, dsDNA, 
Beta-2-glycoprotein Ab, Cardiolipin Ab, Antithrombin.
[] Follow-up with Neurology on ___ to discuss further need for 
imaging and length of need of aspirin.
[] Patient to schedule f/u appointment with Neurosurgery (Dr. 
___ in 2 weeks
[] She will have ___ services at home
[] Please refer to therapy/social work for ongoing support with 
her new diagnoses.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN pain or temp > ___ 
RX *acetaminophen 500 mg ___ capsule(s) by mouth Q8H:PRN Disp 
#*90 Capsule Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
3.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left vermis cerebellar infarct ( L medial branch of ___
Bilateral vertebral artery dissecion
Chiari Malformation, Type I

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were hospitalized 
due to symptoms of dizziness, lightheadedness, nausea, and 
vomiting resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, all of which we 
thoroughly investigated. In your case, the stroke was most 
likely caused by a dissection in two of the arteries in your 
brain,  this occurs when there is a tear in the inner lining of 
the artery.

You had also had a headache for two weeks, which was due to an 
anatomic abnormality called "Chiari Malformation," in which part 
of the brain is displaced downward. This is a common condition, 
many are born with and was noted incidentally on your brain 
imaging. 

Now that you are going home, you will start taking Aspirin 81mg 
daily to prevent future strokes. As we discussed in the 
hospital, you should not breastfeed while taking Aspirin, as it 
may cause side effects to your baby. 

Please take your other medications as prescribed. Please see 
your medication list for details.

Please see follow-up instructions for your appointment details. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

We wish you the best!
Your ___ Neurology Team
 
Followup Instructions:
___